US04962103
(2R,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-carboxymethyl-4-acetylthiopyrrolidine (82 mg) was dissolved in 1.5 ml of dry tetrahydrofuran, and 33 mg of triethylamine was added thereto. Ethyl chloroformate (35 mg) was added to the mixture under nitrogen stream at -10° to -15° C., followed by stirring at the same temperature for 30 minutes. 29% (w/w) Aqueous ammonia (13 mg) was added at -40° C. to the resulting mixture, followed by stirring at -30° to -40° C. for 30 minutes. The reaction mixture was acidified with dilute hydrochloric acid, diluted with ethyl acetate, washed successively with water, a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by silica gel thin layer chromatography to obtain (2R,4S)-1-(p-nitrobenzyloxycarbonyl)-2-aminocarbonylmethyl-4-acetylthiopyrrolidine.

reactant | (2R,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-carboxymethyl-4-acetylthiopyrrolidine | 82 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CC(=O)O)C=C1 | C16H18N2O7S
reactant | Ethyl chloroformate | 35 mg | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 13 mg | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 33 mg | C(C)N(CC)CC | C6H15N
product | (2R,4S)-1-(p-nitrobenzyloxycarbonyl)-2-aminocarbonylmethyl-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CC(=O)N)C=C1 | C16H19N3O6S
